2123-02-20 06:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Face tent 70-100% with sats 90-95%, RR 28-38 and desats to 78% on RA on
   BiPap. Pt uses 4L NC at home at baseline. Received Lasix 20mg IV X1
   with good effect and no bump in Creatinine or electrolyte abnormalities
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 2,050 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2123-2-19**] 08:03 PM
   Heparin Sodium - [**2123-2-19**] 11:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-2-20**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.5
   HR: 97 (79 - 111) bpm
   BP: 120/62(77) {103/48(62) - 157/97(110)} mmHg
   RR: 23 (16 - 34) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 217 kg (admission): 234 kg
             Total In:
                                                                     72 mL
                                                                  1,630 mL
   PO:
             1,500 mL
   TF:
   IVF:
                                                                     72 mL
                                                                    130 mL
   Blood products:
   Total out:
                                                                  4,000 mL
                                                                  1,050 mL
   Urine:
                                                                  4,000 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,928 mL
                                                                    580 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 900 (554 - 6,000) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 90%
   ABG: 7.38/71/66/37/12
   Ve: 19.1 L/min
   PaO2 / FiO2: 165
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic), ejection murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   173 K/uL
   9.5 g/dL
   114 mg/dL
   0.4 mg/dL
   37 mEq/L
   3.9 mEq/L
   6 mg/dL
   96 mEq/L
   142 mEq/L
   30.8 %
   8.2 K/uL
        [image002.jpg] Hct 33.7 yesterday
                             [**2123-2-19**]  09:03 PM
                             [**2123-2-19**]  09:29 PM
                             [**2123-2-20**]  12:27 AM
                             [**2123-2-20**]  05:10 AM
   WBC
   8.2
   Hct
   30.8
   Plt
   173
   Cr
   0.5
   0.4
   TropT
   <0.01
   TCO2
   44
   Glucose
   155
   114
   Other labs: PT / PTT / INR:/95.2/, CK / CKMB / Troponin-T:85//<0.01,
   Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   The patient is a 43 yo woman with h/o COPD, recent PE, and pulmonary
   HTN, who presents with a 3-day history of worsening dyspnea and
   hypoxia.
   .
   #. Dyspnea:  The patient states that her dyspnea has increased over the
   past two weeks, in the setting of a recent URI.  Given her history of
   reactive airway disease, PEs, and pulmonary hypertension, the
   differential of her acute presentation remains broad: COPD exacerbation
   v. recurrent PE v. Pneumonia v. CAD.  Furthermore, her CXR demonstrated
   fluid overload, and she has noticed peripheral edema in the setting of
   not using Lasix, so CHF exacerbation may be contributing to her current
   SOB. Most likely, patient has underlying Pickwickian syndrome, with
   component of hypoxia causing salt/fluid retention.
    - Give Lasix 20 mg IV X1-2 today with goal -2L; recheck PM lytes
    - Continue nebulizations prn and Advair for COPD
    - Continue heparin gtt with bridge to coumadin, given patient's h/o PE
   and subtherapeutic INR
 will restart Coumadin today
    - If respiratory status doesn't improve, continue prednisone +
   Levoquin for presumed COPD exacerbation
   - Repeat ECHO today
   - Patient likely needs chronic Bipap and sleep study as outpatient
   .
   #. History of PEs:  The patient has a history of presumed PEs in
   [**Month (only) 1918**], for which she is to be on anticoagulation for at least 6
   months.  Her INR is currently subtherapeutic at 1.5.
    - Continue home dose of Warfarin 10 mg daily with heparin bridge
    - Continue to monitor INR daily
    - Check PTT q6h for heparin goal 60-100.
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: Heparin gtt
   # Access: peripherals, foley
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 DYSPNEA (SHORTNESS OF BREATH)
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2123-2-19**] 06:29 PM
   18 Gauge - [**2123-2-19**] 06:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2123-02-20 11:08:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: dyspnea, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -diuresed 4 liters
   -requiring bipap intermittently
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2123-2-20**] 07:57 AM
   Infusions:
   Heparin Sodium - 2,050 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2123-2-19**] 08:03 PM
   Heparin Sodium - [**2123-2-19**] 11:09 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-2-20**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.6
   HR: 89 (79 - 111) bpm
   BP: 140/78(94) {103/48(62) - 157/97(110)} mmHg
   RR: 21 (16 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 217 kg (admission): 234 kg
             Total In:
                                                                     72 mL
                                                                  1,871 mL
   PO:
             1,500 mL
   TF:
   IVF:
                                                                     72 mL
                                                                    371 mL
   Blood products:
   Total out:
                                                                  4,000 mL
                                                                  1,700 mL
   Urine:
                                                                  4,000 mL
                                                                  1,700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,928 mL
                                                                    171 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 661 (554 - 6,000) mL
   PS : 5 cmH2O
   RR (Spontaneous): 31
   PEEP: 10 cmH2O
   FiO2: 45%
   PIP: 17 cmH2O
   SpO2: 97%
   ABG: 7.36/78.[**Numeric Identifier 244**]/70/37/14
   Ve: 17.9 L/min
   PaO2 / FiO2: 127
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   173 K/uL
   114 mg/dL
   0.4 mg/dL
   37 mEq/L
   3.9 mEq/L
   6 mg/dL
   96 mEq/L
   142 mEq/L
   30.8 %
   8.2 K/uL
        [image002.jpg]
                             [**2123-2-19**]  09:03 PM
                             [**2123-2-19**]  09:29 PM
                             [**2123-2-20**]  12:27 AM
                             [**2123-2-20**]  05:10 AM
                             [**2123-2-20**]  07:23 AM
   WBC
   8.2
   Hct
   30.8
   Plt
   173
   Cr
   0.5
   0.4
   TropT
   <0.01
   TCO2
   44
   46
   Glucose
   155
   114
   Other labs: PT / PTT / INR:16.9/95.2/1.5, CK / CKMB /
   Troponin-T:85//<0.01, Lactic Acid:0.6 mmol/L, Ca++:9.0 mg/dL, Mg++:1.9
   mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
Chronic resp failure
   -Chronic CO2 retainer (pCO2 in 70s with near normal pH and bicard high
   30s at baseline)
   -Likely underlying obesity hypoventilation syndrome
   -mild pHTN on last echo
   -repeat echo
   -h/o PEs - anticoagulated
   -keep on nocturnal bipap - should be on chronically
   -will need sleed study
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
 DYSPNEA (SHORTNESS OF BREATH)
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 IMPAIRED SKIN INTEGRITY
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2123-2-19**] 06:29 PM
   18 Gauge - [**2123-2-19**] 06:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent: 40 minutes
   Patient is critically ill

2123-02-21 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2123-2-20**] 02:07 PM
   legionella, fungal as well
   - On facemask overnight with goal O2 90-94%
   - f/u Echo:
   - PM lytes
   - Coumadin restarted
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2123-2-20**] 07:57 AM
   Infusions:
   Heparin Sodium - 2,500 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2123-2-20**] 11:15 AM
   Heparin Sodium - [**2123-2-20**] 12:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-2-21**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 79 (69 - 104) bpm
   BP: 107/57(69) {105/53(66) - 140/85(94)} mmHg
   RR: 20 (15 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 212.5 kg (admission): 234 kg
             Total In:
                                                                  3,895 mL
                                                                    183 mL
   PO:
                                                                  3,190 mL
             TF:
   IVF:
                                                                    705 mL
                                                                    183 mL
   Blood products:
   Total out:
                                                                  8,040 mL
                                                                  1,750 mL
   Urine:
                                                                  8,040 mL
                                                                  1,750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,145 mL
                                                                 -1,567 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 678 (503 - 762) mL
   PS : 8 cmH2O
   RR (Spontaneous): 22
   PEEP: 10 cmH2O
   FiO2: 55%
   PIP: 19 cmH2O
   SpO2: 97%
   ABG: 7.36/78.[**Numeric Identifier 244**]/70/40/14
   Ve: 7.7 L/min
   PaO2 / FiO2: 127
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   190 K/uL
   9.3 g/dL
   125 mg/dL
   0.5 mg/dL
   40 mEq/L
   4.5 mEq/L
   5 mg/dL
   95 mEq/L
   141 mEq/L
   31.0 %
   8.2 K/uL
        [image002.jpg]
                             [**2123-2-19**]  09:03 PM
                             [**2123-2-19**]  09:29 PM
                             [**2123-2-20**]  12:27 AM
                             [**2123-2-20**]  05:10 AM
                             [**2123-2-20**]  07:23 AM
                             [**2123-2-20**]  03:00 PM
                             [**2123-2-21**]  04:39 AM
   WBC
   8.2
   8.2
   Hct
   30.8
   31.0
   Plt
   173
   190
   Cr
   0.5
   0.4
   0.5
   TropT
   <0.01
   TCO2
   44
   46
   Glucose
   155
   114
   125
   Other labs: PT / PTT / INR:20.9/99.9/1.9, CK / CKMB /
   Troponin-T:85//<0.01, Lactic Acid:0.6 mmol/L, Ca++:9.1 mg/dL, Mg++:1.9
   mg/dL, PO4:4.2 mg/dL
   Imaging: [**2-20**] CXR: Radiograph is limited due to large body habitus. The
   cardiac silhouette is
   stably enlarged, unchanged compared to multiple prior examinations. The
   left
   lateral hemithorax is not visualized on this examination. There is
   stable,
   diffuse patchy opacity at the right lung with prominent pulmonary
   vasculature,
   consistent with congestive heart failure, unchanged. No evidence of
   pneumothorax.
   Microbiology: [**2-20**] Sputum:
      GRAM STAIN (Final [**2123-2-20**]): Contaminant
      LEGIONELLA CULTURE (Preliminary):
      FUNGAL CULTURE (Preliminary):
   [**2-19**] UCx: Negative
   [**2-19**] BCx: Pending
   Assessment and Plan
 .H/O PULMONARY EMBOLISM (PE), ACUTE
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 DYSPNEA (SHORTNESS OF BREATH)
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 IMPAIRED SKIN INTEGRITY
   The patient is a 43 yo woman with h/o COPD, recent PE, and pulmonary
   HTN, who presents with a 3-day history of worsening dyspnea and
   hypoxia.
   .
   #. Dyspnea:  The patient states that her dyspnea has increased over the
   past two weeks, in the setting of a recent URI.  Given her history of
   reactive airway disease, PEs, and pulmonary hypertension, the
   differential of her acute presentation remains broad: COPD exacerbation
   v. recurrent PE v. Pneumonia v. CAD.  Furthermore, her CXR demonstrated
   fluid overload, and she has noticed peripheral edema in the setting of
   not using Lasix, so CHF exacerbation may be contributing to her current
   SOB. Most likely, patient has underlying Pickwickian syndrome, with
   component of hypoxia causing salt/fluid retention.
    - Give Lasix 20 mg IV X1-2 today with goal -2L; recheck PM lytes
    - Continue nebulizations prn and Advair for COPD
    - Continue heparin gtt with bridge to coumadin, given patient's h/o PE
   and subtherapeutic INR
 will restart Coumadin today
    - If respiratory status doesn't improve, continue prednisone +
   Levoquin for presumed COPD exacerbation
   - Repeat ECHO today
   - Patient likely needs chronic Bipap and sleep study as outpatient
   .
   #. History of PEs:  The patient has a history of presumed PEs in
   [**Month (only) 1918**], for which she is to be on anticoagulation for at least 6
   months.  Her INR is currently subtherapeutic at 1.5.
    - Continue home dose of Warfarin 10 mg daily with heparin bridge
    - Continue to monitor INR daily
    - Check PTT q6h for heparin goal 60-100.
   # H/o COPD: Treatment as above
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: Heparin gtt
   # Access: peripherals, foley
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2123-2-19**] 06:29 PM
   18 Gauge - [**2123-2-19**] 06:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2123-02-21 11:53:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: dyspnea, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2123-2-20**] 02:07 PM
   legionella, fungal as well
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2123-2-21**] 08:37 AM
   Infusions:
   Heparin Sodium - 2,500 units/hour
   Other ICU medications:
   Heparin Sodium - [**2123-2-20**] 12:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-2-21**] 11:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.5
C (97.7
   HR: 64 (64 - 104) bpm
   BP: 116/66(78) {98/53(66) - 132/85(87)} mmHg
   RR: 20 (15 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 212.5 kg (admission): 234 kg
             Total In:
                                                                  3,895 mL
                                                                    399 mL
   PO:
                                                                  3,190 mL
             TF:
   IVF:
                                                                    705 mL
                                                                    399 mL
   Blood products:
   Total out:
                                                                  8,040 mL
                                                                  2,130 mL
   Urine:
                                                                  8,040 mL
                                                                  2,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,145 mL
                                                                 -1,731 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 561 (561 - 762) mL
   PS : 8 cmH2O
   RR (Spontaneous): 20
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   SpO2: 98%
   ABG: ///39/
   Ve: 12.9 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ), distant
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   190 K/uL
   104 mg/dL
   0.6 mg/dL
   39 mEq/L
   4.5 mEq/L
   8 mg/dL
   96 mEq/L
   140 mEq/L
   31.0 %
   8.2 K/uL
        [image002.jpg]
                             [**2123-2-19**]  09:03 PM
                             [**2123-2-19**]  09:29 PM
                             [**2123-2-20**]  12:27 AM
                             [**2123-2-20**]  05:10 AM
                             [**2123-2-20**]  07:23 AM
                             [**2123-2-20**]  03:00 PM
                             [**2123-2-21**]  04:39 AM
   WBC
   8.2
   8.2
   Hct
   30.8
   31.0
   Plt
   173
   190
   Cr
   0.5
   0.4
   0.5
   0.6
   TropT
   <0.01
   TCO2
   44
   46
   Glucose
   155
   114
   125
   104
   Other labs: PT / PTT / INR:20.9/99.9/1.9, CK / CKMB /
   Troponin-T:85//<0.01, Lactic Acid:0.6 mmol/L, Ca++:9.3 mg/dL, Mg++:1.9
   mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
Chronic resp failure
   -Chronic CO2 retainer (pCO2 in 70s with near normal pH and bicard high
   30s at baseline)
   -Likely underlying obesity hypoventilation syndrome
   -mild pHTN on last echo
   -repeat echo today
   -h/o PEs - anticoagulated
   -keep on nocturnal bipap - should be on chronically
   -will need sleed study
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   -MDIs
   -sterois - taper
   -cont diurese
 DYSPNEA (SHORTNESS OF BREATH)
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 IMPAIRED SKIN INTEGRITY
 H/O PULMONARY EMBOLISM (PE), ACUTE
   -cont anticoag
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2123-2-19**] 06:29 PM
   18 Gauge - [**2123-2-19**] 06:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2123-02-22 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - TTE ordered: done this morning (holiday schedule)
   - PM lytes
   - Coumadin restarted at home 10mg dose
   - Insulin sliding scale started
   - Off Bipap in afternoon - intermittently - with 50% cool aerosol ([**Name8 (MD) **]
   RN, increased stability of O2 sats with activity)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2123-2-21**] 08:37 AM
   Infusions:
   Heparin Sodium - 2,500 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2123-2-21**] 12:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-2-22**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 76 (64 - 94) bpm
   BP: 123/65(79) {61/39(45) - 132/77(97)} mmHg
   RR: 19 (17 - 24) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 212.5 kg (admission): 234 kg
             Total In:
                                                                  2,713 mL
                                                                  1,187 mL
   PO:
                                                                  2,000 mL
                                                                  1,000 mL
   TF:
   IVF:
                                                                    713 mL
                                                                    187 mL
   Blood products:
   Total out:
                                                                  9,370 mL
                                                                  1,320 mL
   Urine:
                                                                  9,370 mL
                                                                  1,320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -6,657 mL
                                                                   -133 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 561 (561 - 561) mL
   PS : 8 cmH2O
   RR (Spontaneous): 20
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   SpO2: 90%
   ABG: ///38/
   Ve: 12.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   223 K/uL
   10.7 g/dL
   130 mg/dL
   0.5 mg/dL
   38 mEq/L
   4.7 mEq/L
   14 mg/dL
   91 mEq/L
   137 mEq/L
   35.2 %
   6.8 K/uL
        [image002.jpg]
   [**2-20**] Sputum neg legionella, oral contaminants
   [**2-19**] Urine neg (final)
   [**2-19**] BCx NGTD
                             [**2123-2-19**]  09:03 PM
                             [**2123-2-19**]  09:29 PM
                             [**2123-2-20**]  12:27 AM
                             [**2123-2-20**]  05:10 AM
                             [**2123-2-20**]  07:23 AM
                             [**2123-2-20**]  03:00 PM
                             [**2123-2-21**]  04:39 AM
                             [**2123-2-21**]  04:52 PM
                             [**2123-2-22**]  03:30 AM
   WBC
   8.2
   8.2
   6.8
   Hct
   30.8
   31.0
   35.2
   Plt
   173
   190
   223
   Cr
   0.5
   0.4
   0.5
   0.6
   0.6
   0.5
   TropT
   <0.01
   TCO2
   44
   46
   Glucose
   155
   114
   125
   104
   112
   130
   Other labs: PT / PTT / INR:24.9/79.7/2.4, CK / CKMB /
   Troponin-T:85//<0.01, Differential-Neuts:84.8 %, Lymph:13.5 %, Mono:1.6
   %, Eos:0.1 %, Lactic Acid:0.6 mmol/L, Ca++:9.7 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
   Imaging: [**2-20**] CXR: Radiograph is limited due to large body habitus. The
   cardiac silhouette is
   stably enlarged, unchanged compared to multiple prior examinations. The
   left
   lateral hemithorax is not visualized on this examination. There is
   stable,
   diffuse patchy opacity at the right lung with prominent pulmonary
   vasculature,
   consistent with congestive heart failure, unchanged. No evidence of
   pneumothorax.
   Microbiology: [**2-20**] Sputum:
      GRAM STAIN (Final [**2123-2-20**]): Contaminant
      LEGIONELLA CULTURE (Preliminary):
      FUNGAL CULTURE (Preliminary):
   [**2-19**] UCx: Negative
   [**2-19**] BCx: Pending
   Assessment and Plan: The patient is a 43 yo woman with h/o COPD, recent
   PE, and pulmonary HTN, who presents with a 3-day history of worsening
   dyspnea and hypoxia.
   .
   #. Dyspnea:  Subjectively improved with decreased oxygen requirements.
   Excellent response to diuresis yesterday (net -6.7 liters) to 20 mg IV
   lasix, so may have CHF component to current presentation. Also has
   known CAD, COPD, PE
s, pulm htn, likely obesity hypoventilation
   syndrome, and recent URI. Baseline home O2 is 5 liters NC. INR now
   therapeutic.
    - Another dose of Lasix 20 mg IV this morning, with goal diuresis -1
   to -2 liters today (at least)
   -  [**Hospital1 **] lytes
    - Continue nebs and Advair for COPD
    - Continue heparin gtt and warfarin; INR now therapeutic; will need
   three days of therapeutic levels to bridge.
   - If significantly improves with further diuresis, and stable WBC (in
   setting of steroids) consider d/c steroids/ABx after tomorrow (5 day
   pulse course)
   - Will switch to PO steroids today
   - TTE to evaluate for CHF
   - Patient likely needs chronic Bipap, sleep study as outpatient
   social work to see patient re: mobility, equipment for home etc
   .
   #. History of PEs:  The patient has a history of presumed PEs in
   [**Month (only) 1918**], for which she is to be on anticoagulation for at least 6
   months.  Unable to obtain CTA given habitus; heparin gtt started
   empirically, and to bridge back to therapeutic INR
   - c/w heparin gtt for now (three more days)
   - c/w warfarin 10 mg daily
   - Check PTT q6h for heparin goal 60-100.
   # H/o COPD: Treatment as above
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: Heparin gtt
   # Glycemic control: Hyperglycemic while on steroids; will start insulin
   sliding scale
   # Access: PIV x2, foley
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU; can potentially call out to floor if respiratory
   status continues to improve
 .H/O PULMONARY EMBOLISM (PE), ACUTE
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 DYSPNEA (SHORTNESS OF BREATH)
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Regular, heart healthy diet
   Glycemic Control:  Insulin sliding scale PRN
   Lines:
   20 Gauge - [**2123-2-19**] 06:29 PM
   18 Gauge - [**2123-2-19**] 06:29 PM
   Prophylaxis:
   DVT: heparin gtt with coumadin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full, confirmed
   Disposition: ICU
 CM to help screen patient for pulm rehab (patient
   interested)

2123-02-22 11:53:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: dyspnea, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -bipap intermittently
   -diuresed
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2123-2-22**] 08:08 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2123-2-21**] 12:56 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-2-22**] 11:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.5
C (97.7
   HR: 93 (71 - 94) bpm
   BP: 118/66(77) {61/39(45) - 132/74(97)} mmHg
   RR: 19 (17 - 24) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 212.5 kg (admission): 234 kg
             Total In:
                                                                  2,713 mL
                                                                  1,383 mL
   PO:
                                                                  2,000 mL
                                                                  1,000 mL
   TF:
   IVF:
                                                                    713 mL
                                                                    383 mL
   Blood products:
   Total out:
                                                                  9,370 mL
                                                                  1,780 mL
   Urine:
                                                                  9,370 mL
                                                                  1,780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -6,657 mL
                                                                   -397 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 90%
   ABG: ///38/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anterior exam), distant
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   223 K/uL
   130 mg/dL
   0.5 mg/dL
   38 mEq/L
   4.7 mEq/L
   14 mg/dL
   91 mEq/L
   137 mEq/L
   35.2 %
   6.8 K/uL
        [image002.jpg]
                             [**2123-2-19**]  09:03 PM
                             [**2123-2-19**]  09:29 PM
                             [**2123-2-20**]  12:27 AM
                             [**2123-2-20**]  05:10 AM
                             [**2123-2-20**]  07:23 AM
                             [**2123-2-20**]  03:00 PM
                             [**2123-2-21**]  04:39 AM
                             [**2123-2-21**]  04:52 PM
                             [**2123-2-22**]  03:30 AM
   WBC
   8.2
   8.2
   6.8
   Hct
   30.8
   31.0
   35.2
   Plt
   173
   190
   223
   Cr
   0.5
   0.4
   0.5
   0.6
   0.6
   0.5
   TropT
   <0.01
   TCO2
   44
   46
   Glucose
   155
   114
   125
   104
   112
   130
   Other labs: PT / PTT / INR:24.9/79.7/2.4, CK / CKMB /
   Troponin-T:85//<0.01, Differential-Neuts:84.8 %, Lymph:13.5 %, Mono:1.6
   %, Eos:0.1 %, Lactic Acid:0.6 mmol/L, Ca++:9.7 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
Chronic resp failure
   -Chronic CO2 retainer (pCO2 in 70s with near normal pH and bicarb high
   30s at baseline)
   -Likely underlying obesity hypoventilation syndrome
   -keep on nocturnal bipap - should be on chronically
   -will need sleed study as outpt
   -mild pHTN on last echo
   -repeat echo today
   -h/o PEs - anticoagulated
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   -MDIs
   -sterois - taper
   -cont diurese as tolerated
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 H/O PULMONARY EMBOLISM (PE), ACUTE
   -cont anticoag
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2123-2-19**] 06:29 PM
   18 Gauge - [**2123-2-19**] 06:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2123-02-23 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2123-2-22**] 10:07 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2123-2-22**] 08:08 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2123-2-22**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-2-23**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.6
   HR: 76 (71 - 96) bpm
   BP: 120/68(79) {99/60(70) - 132/78(89)} mmHg
   RR: 19 (12 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 212.5 kg (admission): 234 kg
             Total In:
                                                                  1,961 mL
                                                                    172 mL
   PO:
                                                                  1,240 mL
             TF:
   IVF:
                                                                    721 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  4,360 mL
                                                                  1,860 mL
   Urine:
                                                                  4,360 mL
                                                                  1,860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,399 mL
                                                                 -1,688 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 95%
   ABG: ///35/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   246 K/uL
   12.0 g/dL
   126 mg/dL
   0.6 mg/dL
   35 mEq/L
   5.4 mEq/L
   20 mg/dL
   90 mEq/L
   136 mEq/L
   38.9 %
   8.3 K/uL
        [image002.jpg]
                             [**2123-2-19**]  09:29 PM
                             [**2123-2-20**]  12:27 AM
                             [**2123-2-20**]  05:10 AM
                             [**2123-2-20**]  07:23 AM
                             [**2123-2-20**]  03:00 PM
                             [**2123-2-21**]  04:39 AM
                             [**2123-2-21**]  04:52 PM
                             [**2123-2-22**]  03:30 AM
                             [**2123-2-22**]  03:28 PM
                             [**2123-2-23**]  03:17 AM
   WBC
   8.2
   8.2
   6.8
   8.3
   Hct
   30.8
   31.0
   35.2
   38.9
   Plt
   173
   190
   223
   246
   Cr
   0.5
   0.4
   0.5
   0.6
   0.6
   0.5
   0.6
   0.6
   TCO2
   44
   46
   Glucose
   155
   114
   125
   104
   112
   130
   156
   126
   Other labs: PT / PTT / INR:33.2/74.4/3.4, CK / CKMB /
   Troponin-T:85//<0.01, Differential-Neuts:84.8 %, Lymph:13.5 %, Mono:1.6
   %, Eos:0.1 %, Lactic Acid:0.6 mmol/L, Ca++:10.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
 .H/O PULMONARY EMBOLISM (PE), ACUTE
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 DYSPNEA (SHORTNESS OF BREATH)
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 IMPAIRED SKIN INTEGRITY
   Assessment and Plan: The patient is a 43 yo woman with h/o COPD, recent
   PE, and pulmonary HTN, who presents with a 3-day history of worsening
   dyspnea and hypoxia.
   .
   #. Dyspnea:  Subjectively improved with decreased oxygen requirements.
   Excellent response to diuresis yesterday (net -6.7 liters) to 20 mg IV
   lasix, so may have CHF component to current presentation. Also has
   known CAD, COPD, PE
s, pulm htn, likely obesity hypoventilation
   syndrome, and recent URI. Baseline home O2 is 5 liters NC. INR now
   therapeutic.
    - Another dose of Lasix 20 mg IV this morning, with goal diuresis -1
   to -2 liters today (at least)
   -  [**Hospital1 **] lytes
    - Continue nebs and Advair for COPD
    - Continue heparin gtt and warfarin; INR now therapeutic; will need
   three days of therapeutic levels to bridge.
   - If significantly improves with further diuresis, and stable WBC (in
   setting of steroids) consider d/c steroids/ABx after tomorrow (5 day
   pulse course)
   - Will switch to PO steroids today
   - TTE to evaluate for CHF
   - Patient likely needs chronic Bipap, sleep study as outpatient
   social work to see patient re: mobility, equipment for home etc
   .
   #. History of PEs:  The patient has a history of presumed PEs in
   [**Month (only) 1918**], for which she is to be on anticoagulation for at least 6
   months.  Unable to obtain CTA given habitus; heparin gtt started
   empirically, and to bridge back to therapeutic INR
   - c/w heparin gtt for now (three more days)
   - c/w warfarin 10 mg daily
   - Check PTT q6h for heparin goal 60-100.
   # H/o COPD: Treatment as above
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: Heparin gtt
   # Glycemic control: Hyperglycemic while on steroids; will start insulin
   sliding scale
   # Access: PIV x2, foley
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU; can potentially call out to floor if respiratory
   status continues to improve
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2123-2-19**] 06:29 PM
   18 Gauge - [**2123-2-19**] 06:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2123-02-24 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Bipap at night, 5L NC during the day
   - Derm biopsied inner left thigh nodules yesterday
   - INR elevated at 3.4 so held coumadin, off heparin gtt
   - Discontinued steroids/antibiotics
   - Negative 20L+ length of stay
   - CM screening patient for Radius ([**Hospital **] Rehab)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2123-2-23**] 08:18 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2123-2-23**] 02:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-2-24**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.5
   HR: 85 (72 - 105) bpm
   BP: 108/73(81) {103/62(71) - 144/76(84)} mmHg
   RR: 21 (13 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 212.5 kg (admission): 234 kg
                  Total In:
                                                                    713 mL
                  PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                    473 mL
   Blood products:
   Total out:
                                                                  3,390 mL
                                                                    640 mL
   Urine:
                                                                  3,390 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,677 mL
                                                                   -640 mL
   Respiratory support
   O2 Delivery Device: Other
   SpO2: 96%
   ABG: ///39/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   245 K/uL
   12.8 g/dL
   92 mg/dL
   0.7 mg/dL
   39 mEq/L
   4.5 mEq/L
   26 mg/dL
   88 mEq/L
   135 mEq/L
   40.7 %
   9.7 K/uL
        [image002.jpg]
                             [**2123-2-20**]  05:10 AM
                             [**2123-2-20**]  07:23 AM
                             [**2123-2-20**]  03:00 PM
                             [**2123-2-21**]  04:39 AM
                             [**2123-2-21**]  04:52 PM
                             [**2123-2-22**]  03:30 AM
                             [**2123-2-22**]  03:28 PM
                             [**2123-2-23**]  03:17 AM
                             [**2123-2-23**]  06:42 PM
                             [**2123-2-24**]  12:26 AM
   WBC
   8.2
   8.2
   6.8
   8.3
   9.7
   Hct
   30.8
   31.0
   35.2
   38.9
   40.7
   Plt
   173
   190
   223
   246
   245
   Cr
   0.4
   0.5
   0.6
   0.6
   0.5
   0.6
   0.6
   0.7
   0.7
   TCO2
   46
   Glucose
   114
   125
   104
   112
   130
   156
   126
   92
   92
   Other labs: PT / PTT / INR:37.2/33.5/3.9, CK / CKMB /
   Troponin-T:85//<0.01, Differential-Neuts:84.8 %, Lymph:13.5 %, Mono:1.6
   %, Eos:0.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.7 g/dL, Ca++:9.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   The patient is a 43 yo woman with h/o COPD, recent PE, and pulmonary
   HTN, who presents with a 3-day history of worsening dyspnea and
   hypoxia.
   .
   #. Dyspnea:  Continues to subjectively improve. Continues to diurese
   exceedingly well to relatively small doses of IV lasix, so may have CHF
   component to current presentation. Also has known CAD, COPD, PE
s, pulm
   htn, likely obesity hypoventilation syndrome, and recent URI. Baseline
   home O2 is 5 liters NC. INR supratherapeutic yesterday and today.
   - Another dose of Lasix 20 mg IV this morning, with goal diuresis -1 to
   -2 liters today (at least); can repeat dose if needed
   - Disacontinued levaquin and steroids given no fevers, leukocytosis,
   completed abbreviated course for presumed COPD exacerbation
   - [**Hospital1 **] lytes
   - Continue nebs and Advair for COPD
   - Patient likely needs chronic Bipap, sleep study as outpatient
   social work to see patient re: mobility, equipment for home etc
   - Case Management working on pulm rehab at Radius
   # Acute diastolic CHF: S/p TTE with EF > 55% yesterday. Responding well
   to lasix.
   - Outpatient cards follow up
   - Encourage adherence with lasix for after discharge
   #. History of PEs:  The patient has a history of presumed PEs in
   [**Month (only) 1918**], for which she is to be on anticoagulation for at least 6
   months.  Unable to obtain CTA given habitus. INR supratherapeutic.
   D/c
ing levofloxacin as above.
   - hold today
s dose of warfarin given supratherapeutic INR, which may
   be [**2-9**] interaction with levofloxacin.
   - Starting tomorrow, may resume home dose of Warfarin
   # Thigh nodule: Not fluctuant, does not appear to be abscess. Chronic
   and intermittently more tender with weight gain.
   - Derm biopsied nodule
 will follow up on recs and biopsy pathology
   # H/o COPD: Current presentation appears to be predominantly [**2-9**] volume
   overload. Steroids may be causing fluid retention.
   - Will d/c steroids
   - Will d/c Abx, as above
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: warfarin
   # Glycemic control: insulin sliding scale
   # Access: PIV x2, foley
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU; can potentially call out to floor if respiratory
   status continues to improve
 .H/O PULMONARY EMBOLISM (PE), ACUTE
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 DYSPNEA (SHORTNESS OF BREATH)
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2123-2-19**] 06:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2123-02-25 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2-24**]:
   - ABG 7.46/60/70/44 in OMR to document baseline hypercarbia
   - Diuresed -1L by 3pm
   - D/C planning/summary updated
   - Pt needs cards/pulm/sleep outpt followup (Sleep doctor: [**First Name8 (NamePattern2) **] [**Doctor Last Name 1973**])
   Per sleep fellow: Pt has been scheduled for a split night sleep study
   Thurs [**3-18**] at 8:15pm in [**Location (un) 109**].
   Due to limited availability in Dr. [**First Name (STitle) 1973**] clinic, the follow up is
   scheduled for first available  which is [**6-30**] at 9:30am
   - ?Derm follow-up given left inner thigh biospy of nodules
   - Called out
   - 10:00 pm: -1.5 liters for the day -> 60 mg PO lasix
   [**2-25**]:
   - INR down to 3.1 on AM labs; likely need to restart warfarin
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2123-2-23**] 08:18 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-2-25**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 93 (83 - 119) bpm
   BP: 106/71(79) {91/57(65) - 115/76(84)} mmHg
   RR: 13 (12 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 207 kg (admission): 234 kg
                  Total In:
                                                                    550 mL
                                                                  1,750 mL
   PO:
                                                                    550 mL
                                                                  1,750 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,120 mL
                                                                  2,810 mL
   Urine:
                                                                  2,120 mL
                                                                  2,810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,570 mL
                                                                 -1,060 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Other
   SpO2: 96%
   ABG: 7.46/60/70/43/15
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   269 K/uL
   12.8 g/dL
   104 mg/dL
   0.6 mg/dL
   43 mEq/L
   4.0 mEq/L
   25 mg/dL
   89 mEq/L
   137 mEq/L
   41.7 %
   8.3 K/uL
        [image002.jpg]
                             [**2123-2-21**]  04:39 AM
                             [**2123-2-21**]  04:52 PM
                             [**2123-2-22**]  03:30 AM
                             [**2123-2-22**]  03:28 PM
                             [**2123-2-23**]  03:17 AM
                             [**2123-2-23**]  06:42 PM
                             [**2123-2-24**]  12:26 AM
                             [**2123-2-24**]  02:14 PM
                             [**2123-2-24**]  04:54 PM
                             [**2123-2-25**]  03:26 AM
   WBC
   8.2
   6.8
   8.3
   9.7
   8.3
   Hct
   31.0
   35.2
   38.9
   40.7
   41.7
   Plt
   190
   223
   246
   245
   269
   Cr
   0.6
   0.6
   0.5
   0.6
   0.6
   0.7
   0.7
   0.7
   0.6
   TCO2
   44
   Glucose
   104
   112
   130
   156
   126
   92
   92
   111
   104
   Other labs: PT / PTT / INR:31.0/34.8/3.1, CK / CKMB /
   Troponin-T:85//<0.01, Differential-Neuts:84.8 %, Lymph:13.5 %, Mono:1.6
   %, Eos:0.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.7 g/dL, Ca++:9.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 .H/O PULMONARY EMBOLISM (PE), ACUTE
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 DYSPNEA (SHORTNESS OF BREATH)
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 IMPAIRED SKIN INTEGRITY
   Assessment and Plan
   The patient is a 43 yo woman with h/o COPD, recent PE, and pulmonary
   HTN, who presents with a 3-day history of worsening dyspnea and
   hypoxia.
   .
   #. Dyspnea:  Continues to subjectively improve. Likely [**2-9**] CHF. Also
   has known CAD, COPD, PE
s, pulm htn, likely obesity hypoventilation
   syndrome, and recent URI. Baseline home O2 is 5 liters NC. INR
   supratherapeutic yesterday and today.
   - Continue to diurese patient w/40 PO lasix x1, although caution as
   creatinine slowly trending up.
   - [**Hospital1 **] lytes
   - Continue nebs and Advair for COPD
   - Patient likely needs chronic Bipap. On 15/7 at this time
   - Case Management working on pulm rehab at Radius
   # Right heart failure: S/p TTE with EF > 55% yesterday. Responding well
   to lasix. Likely has LV compromise from RV dilation in setting of known
   pulmonary hypertension.
   - Outpatient pulmonary follow-up
   - Encourage adherence with lasix for after discharge
   #. History of PEs:  H/o presumed PEs in [**Month (only) 1918**], for which she is to
   be on anticoagulation for at least 6 months.
   - C/w holding warfarin given supratherapeutic INR. Monitor coags
   - Starting tomorrow, may resume home dose of Warfarin
   # Thigh nodule: Not fluctuant, does not appear to be abscess. Chronic
   and intermittently more tender with weight gain.
   - Derm biopsied nodule
 will follow up on recs and biopsy path
   # H/o COPD: Current presentation appears to be predominantly [**2-9**] volume
   overload. Steroids may be causing fluid retention.
   - Will d/c steroids, Abx
   - c/w advair, nebs
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: warfarin
   # Glycemic control: insulin sliding scale
   # Access: PIV x2, foley
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU; can potentially call out to floor if respiratory
   status continues to improve
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2123-2-19**] 06:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: